Name:  ___.          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Vicodin
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Pt presented to prenatal visit with worsening cramping and abd 
pain since last night. She described it as bilateral lower 
uterine pain that shoots down inside of both legs. She endorses 
loose stools in the last day and nausea with some vomiting last 
night. No fevers of sick contacts. Also endorses urinary 
pressure that is new. No vaginal bleeding or recent intercourse. 
She started vaginal progesterone ~1 wk ago for short cervix 
diagnosed ___ wks ago. Cervical exam in the office was closed.
 
Past Medical History:
PNC: Dating by L/9
Apos/TPAb NR, HBsAg NR, HCV Ab NR, HIV neg, GC/Ct neg, RI, quant
gold neg, CF neg
Declined quad screen
PN issues:
# Bipolar disorder: h/o suicide attempt at age ___, multiple 
psych admissions; self-medicates w/ THC
# Mild persistent asthma: Flovent and albuterol, reports 
intubation as young child, last hospitalization for prednisone 
in ___.
# Homelessness: quantiferon gold neg (DNKAed PPD)
# Tobacco abuse: ___ ppd pre-preg, now 3 cig/day
# Refuses blood transfusions
# Fibroid uterus: anterior fibroid 6 cm, posterior fibroid 4 cm
# H/o sexual assault: as child by uncle, no issues since his 
death; DV screen neg
PObGynH: ___ trimester TOP x2
PMH: asthma, bipolar disorder
PSH: TOP x2
Dental procedures
Dx laparoscopy ___ for pelvic pain
Knee surgery
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
(on admission))
VS wnl
Gen: NAD
Abd: soft, nontender, gravid, anterior fibroid palp
SVE: ___ palpable at external os, no presenting part 
felt
FH 145
Toco: q2-3 min ctx --> irreg, not traced
 
Pertinent Results:
___ WBC-10.3 RBC-3.75 Hgb-11.0 Hct-32.3 MCV-86 Plt-260
___ WBC-13.8 RBC-3.50 Hgb-10.1 Hct-29.9 MCV-85 Plt-248
___ TSH-0.98
___ HIV Ab-Negative

___ URINE Blood-NEG Nitrite-NEG Protein-TR Glucose-NEG 
Ketone-NEG Bilirub-NEG Urobiln-NEG pH-8.0 Leuks-NEG
___ URINE RBC-1 WBC-<1 Bacteri-NONE Yeast-NONE Epi-2
___ URINE Blood-TR Nitrite-NEG Protein-NEG Glucose-NEG 
Ketone-NEG Bilirub-NEG Urobiln-NEG pH-8.0 Leuks-NEG
___ URINE RBC-2 WBC-1 Bacteri-FEW Yeast-NONE Epi-<1
___ URINE bnzodzp-NEG barbitr-NEG opiates-NEG cocaine-NEG 
amphetm-NEG oxycodn-NEG mthdone-NEG marijua-POS*
___ URINE bnzodzp-NEG barbitr-NEG opiates-NEG cocaine-NEG 
amphetm-NEG oxycodn-NEG mthdone-NEG marijua-POS*

URINE CULTURE (Final ___: 
 GRAM POSITIVE BACTERIA. 10,000-100,000 CFU/mL. 
 Alpha hemolytic colonies consistent with alpha streptococcus
 or Lactobacillus sp. 

URINE CULTURE (Final ___: 
 MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT WITH
 SKIN AND/OR GENITAL CONTAMINATION. 

R/O GROUP B BETA STREP (Final ___: 
 POSITIVE FOR GROUP B BETA STREP.
 
Brief Hospital Course:
___ G3P0020 with cervical insufficiency admitted at 23w6d with 
abdominal pain and cervical dilatation concerning for preterm 
labor. On admission, she was contracting every ___ minutes. Her 
cervix was 1cm/80% and unchanged on 2 repeat exams. She was 
afebrile and without any evidence of infection. Urine toxicology 
screen was positive for marijuana. Fetal testing was reassuring. 
A joint discussion between the patient, MFM, and NICU took place 
and Ms ___ opted for tocolysis and betamethasone. She 
was betamethasone complete on ___. Of note, her baby was in 
breech presentation. She remained clinically stable without any 
evidence of ongoing preterm labor. She remained hospitalized 
until 26 weeks. At that time, her cervix was unchanged and she 
was discharged home. Of note, the vaginal progesterone she had 
previously been taking was discontinued given her cervix was 
dilated.
.
While she was here, Ms ___ complained of persistent 
night sweats. She had a negative evaluation including a negative 
quantiferon gold and HIV, as well as a normal TSH. In regards to 
her psychiatric history, she met with social services given her 
anxiety and difficulty managing her restlessness. Psychiatry 
also met with her and recommended omega-3's for mood stability. 
She continued to decline psych medication.

Ms ___ was discharged to home in stable condition on 
___ and she will have close outpatient follow up.
 
Medications on Admission:
albuterol inh, Flonase, PNV, Flovent 220mcg inh
 
Discharge Medications:
1.  Fish Oil (Omega 3) 1000 mg PO BID  
2.  Fish Oil (Omega 3) 1000 mg PO BID  
3.  Fish Oil (Omega 3) 1000 mg PO BID  
4.  Albuterol Inhaler 1 PUFF IH Q6H:PRN shortness of breath  
5.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
6.  Prenatal 19 (prenatal #115-iron-folic acid) 29 mg iron- 1 mg 
oral DAILY  
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Arrested preterm labor
Short cervix
Multifibroid uterus
Bipolar disorder
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___:

You were admitted to the ___ service with threatened 
preterm labor. When you presented, you had irregular 
contractions and your cervix dilated from 0cm to 1cm. You 
received a course of betamethasone, which is a steroid that 
helps your baby's lungs mature, among other benefits. Throughout 
the remainder of your hospitalization, your cervix remained 
unchanged and there was low ongoing concern for preterm labor. 
On the day of discharge your cervix remained at 1cm. You are 
currently stable and are safe to discharged home. However, you 
remain at high risk for preterm labor, preterm rupture of 
membranes, or other complications. You should call your doctor 
if you develop any concerning symptoms, and should follow-up 
regularly as scheduled.

During this admission, you had night sweats that were not 
associated with fevers. You did not have any fevers, and there 
was low concern for infection. Your testing was negative for 
tuberculosis (TB) and HIV.

You were seen by our inpatient psychiatry team for your history 
of bipolar disorder and, based on their recommendations, you 
were started on Omega 3 fatty acids for mood.

You were also seen by one of our social workers, ___, 
who will continue to be involved in your care. Feel free to 
reach out directly to ___ by calling 
their office at  ___.

The team feels that it is now safe for you to be discharged. 

Please call with any of the following symptoms:
 - Worsening, painful or regular contractions  
 - Vaginal bleeding  
 - Leakage of water or concern that your water broke  
 - Abdominal pain  
 - Nausea/vomiting  
 - Fever, chills  
 - Decreased fetal movement  
 - Other concerns  
 
Followup Instructions:
___